Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:5](=[O:6])([H:10])[H:11].[N:1]#[C:2][C:3](=[C:4]([H:8])[H:9])[H:7]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,55.81506032929744
[C+:3](=[C:4]=[N-:5])[H:9].[C:1]([O:2][H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],3.241150086562712
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:6]([H:13])([H:14])[C:5]1)([H:7])([H:8])[H:9],92.54317854754908
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:14],78.14639312226791
[C:1]([H:8])([H:9])([H:10])[H:12].[N:2](=[C:3](/[C:4]([O:5][H:15])([H:13])[H:14])[C:6]#[N:7])\[H:11]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],84.51588193508341
[C:1]([C:2](/[C:3](=[C:4](\[O:5][C:6](=[O:7])[H:15])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],60.80739820082556
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@:3]1([H:11])[C:4](=[O:6])[N:5]1[H:12])=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10],48.0398693123148
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4][C:5]([H:11])([H:12])[H:13])[H:6]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],31.005629966988487
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@:2]([C:3]([H:10])([H:11])[H:12])([H:9])[C@:4]1([C:5][H:13])[H:6],86.45796527835529
[C:1](/[C:2]([N:3]=[O:4])=[C:7](/[C:5]#[N:6])[H:13])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],35.079495534253724
[C:1]([C@@:2]1([H:12])[C:3]([H:13])([H:14])[O:4][C@:5]([N:7]([H:15])[H:16])([H:11])[O:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],73.64228547941931
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:4]/[C:5]1=[C:6](/[O:7][C:3]([H:12])([H:13])[H:14])[H:15])([H:8])([H:9])[H:10],106.10304574675301
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]([H:14])[O:5]/[C:6]1=[N:7]\[H:13])([H:8])([H:9])[H:10],83.9252068217804
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([H:10])[H:11].[C:5](=[O:6])([H:7])[H:12].[O:1]=[C:2]([H:8])[H:9],71.72430265852459
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O+:1]1=[C:2]([H:8])[N:3]([H:9])[C-:4]([H:10])[C:5]([H:12])([H:13])[C:6]1=[C:7]([H:11])[H:14],75.311251313984
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[C:5]([C:3]#[C+:4])[N-:6][H:10])[H:9])([H:7])[H:8],92.43981066499649
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([C:4](/[C:3](=[N:5]\[C:6](=[O:7])[H:12])[H:9])([H:10])[H:11])[H:8],68.87195969083649
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3]([N:4]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],76.0440372533664
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([C:5](=[C:6])[H:15])([H:13])[H:14])([H:12])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],7.365682623181797
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2](=[C:3]([O:4][C:5](=[O:6])[H:14])[H:13])([H:10])[H:11]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],93.57588579725008
[C-:5]#[O+:6].[C:1](/[N:2]=[C:3](\[O:4][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],43.090416271648
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[O:3]=[C:4]([N:5]([H:10])[H:13])[C:6]#[N:7]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],33.395270447308555
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:15])[H:16])/[N:5]=[C:6](\[O:7][H:13])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:17],90.1924317245162
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:3]([C:2](=[C:6]([H:13])[H:14])[H:10])([H:11])[H:12])=[O:5])([H:7])([H:8])[H:9],98.2619870254248
[N:1]#[C:2][H:8].[O:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],45.7338096155202
